** sch_path: /foss/designs/PhaseInterpolator/8xPI_top/8xPI_top.sch
**.subckt 8xPI_top VINI VINIB VCONT VDD VSS VOUT VS[4],VS[3],VS[2],VS[1],VS[0]
*.ipin VINI
*.ipin VINIB
*.ipin VCONT
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[4],VS[3],VS[2],VS[1],VS[0]
x1 net1 net4 net3 net2 VSQ[1] VSQ[0] VSTQ[7] VSTQ[6] VSTQ[5] VSTQ[4] VSTQ[3] VSTQ[2] VSTQ[1] VSQ[2] VOUT VDD VSS 8xPI
x2 VDD net2 net3 VINI VSS VCONT net4 net1 VINIB 2to4prelim
x3 VST[7] VST[6] VST[5] VST[4] VST[3] VST[2] VST[1] VS[2] VS[1] VS[0] VDD VSS 3to7_deco_v2
x4 VDD VSQ[2] VSQ[1] VSQ[0] VS[4] VS[3] VSS VSTQ[7] VSTQ[6] VSTQ[5] VSTQ[4] VSTQ[3] VSTQ[2] VSTQ[1] VST[7] VST[6] VST[5] VST[4]
+ VST[3] VST[2] VST[1] 8xPI_logic
**.ends

* expanding   symbol:  /foss/designs/PhaseInterpolator/8xPI/8xPI.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/8xPI/8xPI.sym
** sch_path: /foss/designs/PhaseInterpolator/8xPI/8xPI.sch
.subckt 8xPI VINI VINIB VINQ VINQB VS[1] VS[0] VST[7] VST[6] VST[5] VST[4] VST[3] VST[2] VST[1] VST[0] VOUT VDD VSS
*.ipin VINI
*.ipin VINQ
*.ipin VINIB
*.ipin VINQB
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[1],VS[0]
*.ipin VST[7],VST[6],VST[5],VST[4],VST[3],VST[2],VST[1],VST[0]
x1[7] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[7] MUX_4_1
x1[6] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[6] MUX_4_1
x1[5] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[5] MUX_4_1
x1[4] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[4] MUX_4_1
x1[3] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[3] MUX_4_1
x1[2] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[2] MUX_4_1
x1[1] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[1] MUX_4_1
x1[0] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[0] MUX_4_1
x2 VDD net2 net1 VSS inv_PI
x1 VDD VOUT net2 VSS buff_PI_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/2to4prelim.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/2to4/2to4prelim.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/2to4prelim.sch
.subckt 2to4prelim VDD VQB VQ VINI VSS VCONT VIB VI VINIB
*.iopin VDD
*.iopin VSS
*.ipin VCONT
*.ipin VINI
*.opin VIB
*.opin VQ
*.opin VQB
*.ipin VINIB
*.opin VI
x1 VDD VINI net2 VCONT VSS delay_variable
x2 VDD net1 net2 VSS inv
x3 VDD net3 net1 VSS inv
x4 VDD net6 net3 VSS inv
x6 VDD net5 VINI VSS inv
x5 VDD net4 VINIB VSS inv
x7 VDD VI net4 VSS buff_d16
x8 VDD VIB net5 VSS buff_d16
x9 VDD VQ net6 VSS buff_d16
x10 VDD VQB net3 VSS buff_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/BinarytoThermo/3to7_deco_v2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/BinarytoThermo/3to7_deco_v2.sym
** sch_path: /foss/designs/PhaseInterpolator/BinarytoThermo/3to7_deco_v2.sch
.subckt 3to7_deco_v2 ST[7] ST[6] ST[5] ST[4] ST[3] ST[2] ST[1] S[2] S[1] S[0] VDD VSS
*.opin ST[7],ST[6],ST[5],ST[4],ST[3],ST[2],ST[1]
*.ipin S[2],S[1],S[0]
*.iopin VDD
*.iopin VSS
x1 VDD S[0] net3 VSS not_custom
x2 VDD S[1] net2 VSS not_custom
x3 VDD S[2] net1 VSS not_custom
x4 VDD net1 net2 net3 ST[1] VSS nor_x3_custom
x5 VDD net2 ST[2] net3 VSS nor_custom
x6 VDD net5 ST[3] net3 VSS nor_custom
x7 VDD net3 ST[4] VSS not_custom
x8 VDD ST[5] net4 net3 VSS nand_custom
x9 VDD ST[6] net2 net3 VSS nand_custom
x11 VDD net5 net2 net1 VSS and_custom
x12 VDD net1 net4 net2 VSS or_custom
x10 VDD ST[7] net1 net2 net3 VSS nand_x3_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/8xPI_logic/8xPI_logic.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/8xPI_logic/8xPI_logic.sym
** sch_path: /foss/designs/PhaseInterpolator/8xPI_logic/8xPI_logic.sch
.subckt 8xPI_logic VDD SQ[2] SQ[1] SQ[0] S[4] S[3] VSS STQ[7] STQ[6] STQ[5] STQ[4] STQ[3] STQ[2] STQ[1] ST[7] ST[6] ST[5] ST[4]
+ ST[3] ST[2] ST[1]
*.ipin S[4],S[3]
*.iopin VSS
*.opin STQ[7],STQ[6],STQ[5],STQ[4],STQ[3],STQ[2],STQ[1]
*.ipin ST[7],ST[6],ST[5],ST[4],ST[3],ST[2],ST[1]
*.iopin VDD
*.opin SQ[2],SQ[1],SQ[0]
x1 VDD net1 Sbuff[4] VSS inv
x2 VDD SQ[1] net1 VSS inv
x3 VDD S[3] VSS SQ[0] S[4] xor_custom
x4 VDD net2 S[3] VSS inv
x5 VDD SQ[2] net2 VSS inv
x6[6] VDD SCb[7] Sbuff[4] VSS inv
x6[5] VDD SCb[6] Sbuff[4] VSS inv
x6[4] VDD SCb[5] Sbuff[4] VSS inv
x6[3] VDD SCb[4] Sbuff[4] VSS inv
x6[2] VDD SCb[3] Sbuff[4] VSS inv
x6[1] VDD SCb[2] Sbuff[4] VSS inv
x6[0] VDD SCb[1] Sbuff[4] VSS inv
x7[6] VDD SC[7] SCb[7] VSS inv
x7[5] VDD SC[6] SCb[6] VSS inv
x7[4] VDD SC[5] SCb[5] VSS inv
x7[3] VDD SC[4] SCb[4] VSS inv
x7[2] VDD SC[3] SCb[3] VSS inv
x7[1] VDD SC[2] SCb[2] VSS inv
x7[0] VDD SC[1] SCb[1] VSS inv
x1[6] VDD ST[7] VSS STQ[7] SC[7] xor_custom
x1[5] VDD ST[6] VSS STQ[6] SC[6] xor_custom
x1[4] VDD ST[5] VSS STQ[5] SC[5] xor_custom
x1[3] VDD ST[4] VSS STQ[4] SC[4] xor_custom
x1[2] VDD ST[3] VSS STQ[3] SC[3] xor_custom
x1[1] VDD ST[2] VSS STQ[2] SC[2] xor_custom
x1[0] VDD ST[1] VSS STQ[1] SC[1] xor_custom
x6 VDD Sbuff[4] S[4] VSS buff_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sch
.subckt MUX_4_1 VINA VINB VDD VOUT VS[1] VS[0] VINC VSS VIND VST
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin VINA
*.ipin VINB
*.ipin VINC
*.ipin VIND
*.ipin VS[1],VS[0]
*.ipin VST
x3 VDD VINC net2 VS[1] VIND VSS MUX_2_1
x4 VDD VINA net1 VS[0] VINB VSS MUX_2_1
x5 VDD net1 VOUT VST net2 VSS MUX_2_1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sch
.subckt buff_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_PI_d2
x8 VDD net2 net1 VSS inv_PI_d4
x9 VDD net3 net2 VSS inv_PI_d8
x10 VDD VOUT net3 VSS inv_PI_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/delay_variable.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/2to4/delay_variable.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/delay_variable.sch
.subckt delay_variable VDD VIN VOUT VCONT VSS
*.iopin VSS
*.iopin VDD
*.opin VOUT
*.ipin VCONT
*.ipin VIN
XM1 VOUT VIN net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=4
XM2 net2 VCONT VSS VSS sg13_lv_nmos w=0.15u l=0.25u ng=1 m=4
XM3 net3 VCONT VSS VSS sg13_lv_nmos w=0.15u l=0.25u ng=1 m=5
XM5 VOUT VIN net1 VDD sg13_lv_pmos w=0.2u l=0.13u ng=1 m=5
XM6 net1 net3 VDD VDD sg13_lv_pmos w=0.2u l=0.25u ng=1 m=5
XM4 net3 net3 VDD VDD sg13_lv_pmos w=0.15u l=0.25u ng=1 m=5
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d16.sch
.subckt buff_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_d2
x8 VDD net2 net1 VSS inv_d4
x9 VDD net3 net2 VSS inv_d8
x10 VDD VOUT net3 VSS inv_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/not_custom.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/not_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/not_custom.sch
.subckt not_custom VDD A OUT VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.opin OUT
XM4 OUT A VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
XM1 OUT A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nor_x3_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_x3_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_x3_custom.sch
.subckt nor_x3_custom VDD A B C OUT VSS
*.iopin VDD
*.iopin VSS
*.ipin B
*.ipin C
*.opin OUT
*.ipin A
XM1 OUT A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT C net1 VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
XM3 OUT B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 net1 B net2 VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
XM5 net2 A VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
XM6 OUT C VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nor_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_custom.sch
.subckt nor_custom VDD A OUT B VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.ipin B
*.opin OUT
XM1 OUT B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT B net1 VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
XM3 OUT A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 net1 A VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sch
.subckt nand_custom VDD OUT A B VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.ipin B
*.opin OUT
XM1 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM3 net1 B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/and_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/and_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/and_custom.sch
.subckt and_custom VDD OUT A B VSS
*.ipin A
*.iopin VDD
*.opin OUT
*.iopin VSS
*.ipin B
x1 VDD OUT net1 VSS inv
x2 VDD net1 A B VSS nand_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/or_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/or_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/or_custom.sch
.subckt or_custom VDD A OUT B VSS
*.iopin VDD
*.iopin VSS
*.opin OUT
*.ipin A
*.ipin B
x1 VDD A net1 B VSS nor_custom
x2 VDD OUT net1 VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sch
.subckt nand_x3_custom VDD OUT A B C VSS
*.ipin A
*.ipin B
*.ipin C
*.iopin VSS
*.iopin VDD
*.opin OUT
XM2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM3 OUT C VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM4 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM5 net1 B net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM6 net2 C VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/xor_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/xor_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/xor_custom.sch
.subckt xor_custom VDD B VSS VOUT A
*.ipin A
*.ipin B
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1 VDD Bb B VSS inv
x2 B VOUT A Bb inv
x3 A Bb B VOUT net1 net2 tg_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sch
.subckt buff_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv
x8 VDD net2 net1 VSS inv_d2
x9 VDD net3 net2 VSS inv_d4
x10 VDD VOUT net3 VSS inv_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sch
.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.opin VOUT
*.ipin VINA
*.ipin VINB
*.ipin VS
*.iopin VDD
*.iopin VSS
x1 VOUT net1 VS net2 VDD VSS tg_custom
x2 VOUT VS net1 net3 VDD VSS tg_custom
x3 VDD net1 VS VSS inv
x4 VDD net2 VINA VSS inv_PI
x5 VDD net3 VINB VSS inv_PI
x6[3] VOUT VSS VDD net2 VDD VSS tg_custom
x6[2] VOUT VSS VDD net2 VDD VSS tg_custom
x6[1] VOUT VSS VDD net2 VDD VSS tg_custom
x6[0] VOUT VSS VDD net2 VDD VSS tg_custom
x7[3] VOUT VSS VDD net3 VDD VSS tg_custom
x7[2] VOUT VSS VDD net3 VDD VSS tg_custom
x7[1] VOUT VSS VDD net3 VDD VSS tg_custom
x7[0] VOUT VSS VDD net3 VDD VSS tg_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sch
.subckt inv_PI_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI
x1[0] VDD VOUT VIN VSS inv_PI
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sch
.subckt inv_PI_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d2
x1[0] VDD VOUT VIN VSS inv_PI_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sch
.subckt inv_PI_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d4
x1[0] VDD VOUT VIN VSS inv_PI_d4
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sch
.subckt inv_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d8
x1[0] VDD VOUT VIN VSS inv_PI_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sch
.subckt inv_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv
x1[0] VDD VOUT VIN VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sch
.subckt inv_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d2
x1[0] VDD VOUT VIN VSS inv_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sch
.subckt inv_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d4
x1[0] VDD VOUT VIN VSS inv_d4
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d16.sch
.subckt inv_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d8
x1[0] VDD VOUT VIN VSS inv_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.iopin VIN
*.iopin VSN
*.iopin VOUT
*.iopin VSP
*.iopin VBN
*.iopin VBP
XM1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 VOUT VSP VIN VBP sg13_lv_pmos w=0.3u l=0.13u ng=2 m=1
.ends

.end
